US09062078B2
Step A: 3-bromo-6-methylpicolinic acid.
To 3-bromo-6-methylpicolinonitrile (4 g, 20.3 mmol) in EtOH (40 mL) in a sealed tube was added aqueous 4M NaOH (15 mL). The reaction was heated at 90° C. for 24 h. Additional aqueous 4M NaOH was added and heating continued at 90° C. for 24 h. The reaction was cooled to rt, acidified to pH=3 with 1N HCl (aq), concentrated and used without further purification in subsequent steps. MS (ESI) mass calcd. for C7H6BrNO2, 216.0; m/z found 218 [M+H]+.

reactant | 3-bromo-6-methylpicolinonitrile | 20.3 mmol, 4 g | BrC=1C(=NC(=CC1)C)C#N | C7H5BrN2
reactant | NaOH | 4M, 15 mL | [OH-].[Na+]
reactant | NaOH | 4M | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | EtOH | 40 mL | CCO | C2H6O
product | 3-bromo-6-methylpicolinic acid | BrC=1C(=NC(=CC1)C)C(=O)O | C7H6BrNO2
